### PR TITLE
feat: games of birthday one

### PR DESCRIPTION
**Pull request by plp127**
Prove that the games of birthday one are exactly `-1`, `⋆`, and `1`. Prove that the games of birthday at most one are `-1`, `0`, `⋆`, and `1`. Prove that the numbers of birthday `1` are `-1` and `1`, and that the numbers of birthday at most `1` are `-1`, `0`, and `1`.

### CODE REVIEW

File: CombinatorialGames/Game/Birthday.lean [hunk 1]
```diff
@@ -205,6 +205,34 @@ theorem birthday_tiny (x : IGame) : (⧾x).birthday = x.birthday + 2 := by
...
+    · refine .inr (.inr ?_)
+      rw [one_def]
+    · refine .inr (.inl (ext fun p => ?_))
+      cases p <;> simp
+  · rintro (rfl | rfl | rfl) <;> simp
+
+theorem birthday_le_one {x : IGame} : birthday x ≤ 1 ↔ x = -1 ∨ x = 0 ∨ x = ⋆ ∨ x = 1 := by
+  rw [le_one_iff, birthday_eq_zero, birthday_eq_one]
+  apply iff_of_eq
+  ac_rfl
```
Comment (vihdzp) [inline CombinatorialGames/Game/Birthday.lean]: Much easier proofs, using API from later down in the file.
```suggestion
theorem birthday_le_one {x : IGame} : x.birthday ≤ 1 ↔ x = 0 ∨ x = 1 ∨ x = -1 ∨ x = ⋆ := by
  rw [← Nat.cast_one, ← mem_birthdayFinset, birthdayFinset_one]
  simp

@[simp]
theorem zero_ne_star : 0 ≠ ⋆ :=
  zero_fuzzy_star.ne

theorem birthday_eq_one {x : IGame} : x.birthday = 1 ↔ x = 1 ∨ x = -1 ∨ x = ⋆ := by
  rw [le_antisymm_iff, one_le_iff_ne_zero, birthday_le_one]
  aesop
```

File: CombinatorialGames/Game/Birthday.lean [hunk 2]
```diff
@@ -410,6 +438,19 @@ theorem birthday_add_le (x y : Game) : (x + y).birthday ≤ x.birthday + y.birth
...
+  · intro hx
+    obtain ⟨x, rfl, hxb⟩ := birthday_eq_iGameBirthday x
+    rw [← hxb, IGame.birthday_eq_one] at hx
+    obtain rfl | rfl | rfl := hx <;> simp
+  · rintro (rfl | rfl | rfl) <;> simp
+
+theorem birthday_le_one {x : Game} : birthday x ≤ 1 ↔ x = -1 ∨ x = 0 ∨ x = mk ⋆ ∨ x = 1 := by
+  rw [le_one_iff, birthday_eq_one, birthday_eq_zero]
+  apply iff_of_eq
+  ac_rfl
```
Comment (vihdzp) [inline CombinatorialGames/Game/Birthday.lean]: Also works:
```suggestion
  tauto
```

File: CombinatorialGames/Surreal/Birthday/Basic.lean [hunk 3]
```diff
@@ -128,6 +128,23 @@ theorem birthday_add_le (x y : Surreal) : (x + y).birthday ≤ x.birthday + y.bi
...
+    · simp
+    · absurd nx
+      exact not_numeric_star
+    · simp
+  · rintro (rfl | rfl) <;> simp
+
+theorem birthday_le_one {x : Surreal} : birthday x ≤ 1 ↔ x = -1 ∨ x = 0 ∨ x = 1 := by
+  rw [le_one_iff, birthday_eq_one, birthday_eq_zero]
+  apply iff_of_eq
+  ac_rfl
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Birthday/Basic.lean]: Same here
```suggestion
  tauto
```

**Review by vihdzp — APPROVED** [review]
At some future point, we could look into providing the set of numbers with birthday `≤ n` as a computable `Finset Dyadic`. Just a thought.

**Comment by vihdzp** [comment]
Oh, here's an idea. We can prove that the set of `Game` with birthday ≤ or < to `o` is `Game.mk ''` of the set of `IGame` with the same property. This should allow you to prove the theorem for `Game` much easier.

File: CombinatorialGames/Game/Birthday.lean (hunk 2 above)
Comment (plp127) [reply CombinatorialGames/Game/Birthday.lean]: I think `apply iff_of_eq` followed by `ac_rfl` better communicates what is being done here. Also I would prefer not to use `aesop` because of the large amount of `aesop` calls in this repo which are incredibly slow for some reason.

Comment (vihdzp) [reply CombinatorialGames/Game/Birthday.lean]: Maybe `ac_rfl` should also support iffs? Can we suggest this somewhere?

File: CombinatorialGames/Game/Birthday.lean [hunk 4]
```diff
@@ -410,6 +418,17 @@ theorem birthday_add_le (x y : Game) : (x + y).birthday ≤ x.birthday + y.birth
...
+theorem birthday_eq_one {x : Game} : birthday x = 1 ↔ x = 1 ∨ x = -1 ∨ x = mk ⋆ := by
+  constructor
+  · intro hx
+    obtain ⟨x, rfl, hxb⟩ := birthday_eq_iGameBirthday x
+    rw [← hxb, IGame.birthday_eq_one] at hx
+    obtain rfl | rfl | rfl := hx <;> simp
+  · rintro (rfl | rfl | rfl) <;> simp
+
+theorem birthday_le_one {x : Game} : birthday x ≤ 1 ↔ x = 0 ∨ x = 1 ∨ x = -1 ∨ x = mk ⋆ := by
+  rw [le_one_iff, birthday_eq_one, birthday_eq_zero]
```
Comment (vihdzp) [inline CombinatorialGames/Game/Birthday.lean]: Here's my own take. Essentially we first prove a more general result then get this as a corollary.
```suggestion
theorem mk_eq_zero {x : IGame} : mk x = 0 ↔ x ≈ 0 := mk_eq_mk
theorem zero_eq_mk {x : IGame} : 0 = mk x ↔ 0 ≈ x := mk_eq_mk

theorem mk_ofPred_birthday_lt (o : NatOrdinal) :
    mk '' {x | x.birthday < o} = {x | x.birthday < o} := by
  ext x
  constructor
  · rintro ⟨x, hx, rfl⟩
    exact (birthday_mk_le x).trans_lt hx
  · intro hx
    obtain ⟨x, rfl, hx⟩ := birthday_eq_iGameBirthday x
    refine ⟨x, ?_, rfl⟩
    rwa [mem_ofPred, hx]

theorem mk_ofPred_birthday_le (o : NatOrdinal) :
    mk '' {x | x.birthday ≤ o} = {x | x.birthday ≤ o} := by
  simpa using mk_ofPred_birthday_lt (o + 1)

theorem birthday_le_one {x : Game} : birthday x ≤ 1 ↔ x = 0 ∨ x = 1 ∨ x = -1 ∨ x = mk ⋆ := by
  simpa [IGame.birthday_le_one, eq_comm] using Set.ext_iff.1 (mk_ofPred_birthday_le 1).symm x

theorem birthday_eq_one {x : Game} : birthday x = 1 ↔ x = 1 ∨ x = -1 ∨ x = mk ⋆ := by
  rw [le_antisymm_iff, one_le_iff_ne_zero, ne_eq, birthday_eq_zero, birthday_le_one]
  aesop (add simp [zero_eq_mk])
```
